US05559105
d) 2-n-Butyl-1-methyl-1H-imidazole-5-carbaldehyde
2-n-Butyl-4-iodo-1-methyl-1H-imidazole-5-carbaldehyde (1.93 g, 6.6 mmol) dissolved in MeOH (100 ml) buffered with KOAc (850 mg) was treated with 10% Pd/C and shaken under 50 psi of H2 for 3 h. The catalyst was removed by filtration and the MeOH removed under reduced pressure. The residue was partitioned between CH2Cl2 and 5% NaHCO3 solution. The layers were separated and the aqueous portion further extracted with CH2Cl2 (2x). The combined organic portions were dried (MgSO4 anhydrous), filtered, and evaporated to give the title compound as a bright yellow oil. (1.86 g, 99% )

reactant | 2-n-Butyl-4-iodo-1-methyl-1H-imidazole-5-carbaldehyde | 6.6 mmol, 1.93 g | C(CCC)C=1N(C(=C(N1)I)C=O)C | C9H13IN2O
reactant | KOAc | 850 mg | CC(=O)[O-].[K+]
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-n-Butyl-1-methyl-1H-imidazole-5-carbaldehyde | C(CCC)C=1N(C(=CN1)C=O)C | C9H14N2O
